US08389511B2
4-[2-(Dibenzylamino)ethyl]-7-fluoro-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid
4-[2-(Dibenzylamino)ethyl]-7-fluoro-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carbonitrile (588 mg) was dissolved in acetic acid (5 ml), and thereto was added conc. hydrochloric acid (5 ml), and the mixture was refluxed for 75 hours. The reaction solution was cooled, and thereto was added water, and filtered. The solid collected by filtration was washed with water and dried at 70° C. for 18 hours to give the title compound (406 mg).

reactant | 4-[2-(Dibenzylamino)ethyl]-7-fluoro-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carbonitrile | 588 mg | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)F)C#N)(C)C)=O)CC2=CC=CC=C2 | C27H26FN3O2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | O | H2O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-[2-(Dibenzylamino)ethyl]-7-fluoro-2,2-dimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | 406 mg | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)F)C(=O)O)(C)C)=O)CC2=CC=CC=C2 | C27H27FN2O4
